US06884821B1
12 g of 5-bromo-2-chorobenzoic acid was dissolved in 60 ml tetrahydrofuran, and 148.3 g of borane-tetrahydrofuran complex (1 M solution in tetrahydrofuran) was added, followed by stirring at room temperature for 2.5 days. 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated, to give 11.46 g of 5-bromo-2-chlorobenzyl alcohol. This crude product was treated in the same method as in Production Example 89e), to give ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methylphenyl)-2-isopropoxypropionate.

reactant | 5-bromo-2-chorobenzoic acid | 12 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | borane tetrahydrofuran | 1 M, 148.3 g | B.O1CCCC1
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-chlorobenzyl alcohol | 11.46 g | BrC=1C=CC(=C(CO)C1)Cl | C7H6BrClO
